*-- pdngen: spice deck generated for chip 'chiplet3' PDN
*-- die chiplet3:  W/H: 0.003/0.003


.subckt chiplet3
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_4_5
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_5_4
*-- p/g port #: 18/18
+nd_1_0_8666_3333

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_666_666 nd_1_0_2000_666 0.016324
rd_1_2_0_0_1 nd_1_0_2000_666 nd_1_0_3333_666 0.016324
rd_1_2_0_0_2 nd_1_0_3333_666 nd_1_0_4666_666 0.016324
rd_1_2_0_0_3 nd_1_0_4666_666 nd_1_0_6000_666 0.016324
rd_1_2_0_0_4 nd_1_0_6000_666 nd_1_0_7333_666 0.016324
rd_1_2_0_0_5 nd_1_0_7333_666 nd_1_0_8666_666 0.016324
rd_1_2_0_1_0 nd_1_0_666_2000 nd_1_0_2000_2000 0.016324
rd_1_2_0_1_1 nd_1_0_2000_2000 nd_1_0_3333_2000 0.016324
rd_1_2_0_1_2 nd_1_0_3333_2000 nd_1_0_4666_2000 0.016324
rd_1_2_0_1_3 nd_1_0_4666_2000 nd_1_0_6000_2000 0.016324
rd_1_2_0_1_4 nd_1_0_6000_2000 nd_1_0_7333_2000 0.016324
rd_1_2_0_1_5 nd_1_0_7333_2000 nd_1_0_8666_2000 0.016324
rd_1_2_0_2_0 nd_1_0_666_3333 nd_1_0_2000_3333 0.016324
rd_1_2_0_2_1 nd_1_0_2000_3333 nd_1_0_3333_3333 0.016324
rd_1_2_0_2_2 nd_1_0_3333_3333 nd_1_0_4666_3333 0.016324
rd_1_2_0_2_3 nd_1_0_4666_3333 nd_1_0_6000_3333 0.016324
rd_1_2_0_2_4 nd_1_0_6000_3333 nd_1_0_7333_3333 0.016324
rd_1_2_0_2_5 nd_1_0_7333_3333 nd_1_0_8666_3333 0.016324
rd_1_2_0_3_0 nd_1_0_666_4666 nd_1_0_2000_4666 0.016324
rd_1_2_0_3_1 nd_1_0_2000_4666 nd_1_0_3333_4666 0.016324
rd_1_2_0_3_2 nd_1_0_3333_4666 nd_1_0_4666_4666 0.016324
rd_1_2_0_3_3 nd_1_0_4666_4666 nd_1_0_6000_4666 0.016324
rd_1_2_0_3_4 nd_1_0_6000_4666 nd_1_0_7333_4666 0.016324
rd_1_2_0_3_5 nd_1_0_7333_4666 nd_1_0_8666_4666 0.016324
rd_1_2_0_4_0 nd_1_0_666_6000 nd_1_0_2000_6000 0.016324
rd_1_2_0_4_1 nd_1_0_2000_6000 nd_1_0_3333_6000 0.016324
rd_1_2_0_4_2 nd_1_0_3333_6000 nd_1_0_4666_6000 0.016324
rd_1_2_0_4_3 nd_1_0_4666_6000 nd_1_0_6000_6000 0.016324
rd_1_2_0_4_4 nd_1_0_6000_6000 nd_1_0_7333_6000 0.016324
rd_1_2_0_4_5 nd_1_0_7333_6000 nd_1_0_8666_6000 0.016324
rd_1_2_0_5_0 nd_1_0_666_7333 nd_1_0_2000_7333 0.016324
rd_1_2_0_5_1 nd_1_0_2000_7333 nd_1_0_3333_7333 0.016324
rd_1_2_0_5_2 nd_1_0_3333_7333 nd_1_0_4666_7333 0.016324
rd_1_2_0_5_3 nd_1_0_4666_7333 nd_1_0_6000_7333 0.016324
rd_1_2_0_5_4 nd_1_0_6000_7333 nd_1_0_7333_7333 0.016324
rd_1_2_0_5_5 nd_1_0_7333_7333 nd_1_0_8666_7333 0.016324
rd_1_2_0_6_0 nd_1_0_666_8666 nd_1_0_2000_8666 0.016324
rd_1_2_0_6_1 nd_1_0_2000_8666 nd_1_0_3333_8666 0.016324
rd_1_2_0_6_2 nd_1_0_3333_8666 nd_1_0_4666_8666 0.016324
rd_1_2_0_6_3 nd_1_0_4666_8666 nd_1_0_6000_8666 0.016324
rd_1_2_0_6_4 nd_1_0_6000_8666 nd_1_0_7333_8666 0.016324
rd_1_2_0_6_5 nd_1_0_7333_8666 nd_1_0_8666_8666 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_666_666 nd_2_0_666_2000 0.016324
rd_2_1_0_0_1 nd_2_0_666_2000 nd_2_0_666_3333 0.016324
rd_2_1_0_0_2 nd_2_0_666_3333 nd_2_0_666_4666 0.016324
rd_2_1_0_0_3 nd_2_0_666_4666 nd_2_0_666_6000 0.016324
rd_2_1_0_0_4 nd_2_0_666_6000 nd_2_0_666_7333 0.016324
rd_2_1_0_0_5 nd_2_0_666_7333 nd_2_0_666_8666 0.016324
rd_2_1_0_1_0 nd_2_0_2000_666 nd_2_0_2000_2000 0.016324
rd_2_1_0_1_1 nd_2_0_2000_2000 nd_2_0_2000_3333 0.016324
rd_2_1_0_1_2 nd_2_0_2000_3333 nd_2_0_2000_4666 0.016324
rd_2_1_0_1_3 nd_2_0_2000_4666 nd_2_0_2000_6000 0.016324
rd_2_1_0_1_4 nd_2_0_2000_6000 nd_2_0_2000_7333 0.016324
rd_2_1_0_1_5 nd_2_0_2000_7333 nd_2_0_2000_8666 0.016324
rd_2_1_0_2_0 nd_2_0_3333_666 nd_2_0_3333_2000 0.016324
rd_2_1_0_2_1 nd_2_0_3333_2000 nd_2_0_3333_3333 0.016324
rd_2_1_0_2_2 nd_2_0_3333_3333 nd_2_0_3333_4666 0.016324
rd_2_1_0_2_3 nd_2_0_3333_4666 nd_2_0_3333_6000 0.016324
rd_2_1_0_2_4 nd_2_0_3333_6000 nd_2_0_3333_7333 0.016324
rd_2_1_0_2_5 nd_2_0_3333_7333 nd_2_0_3333_8666 0.016324
rd_2_1_0_3_0 nd_2_0_4666_666 nd_2_0_4666_2000 0.016324
rd_2_1_0_3_1 nd_2_0_4666_2000 nd_2_0_4666_3333 0.016324
rd_2_1_0_3_2 nd_2_0_4666_3333 nd_2_0_4666_4666 0.016324
rd_2_1_0_3_3 nd_2_0_4666_4666 nd_2_0_4666_6000 0.016324
rd_2_1_0_3_4 nd_2_0_4666_6000 nd_2_0_4666_7333 0.016324
rd_2_1_0_3_5 nd_2_0_4666_7333 nd_2_0_4666_8666 0.016324
rd_2_1_0_4_0 nd_2_0_6000_666 nd_2_0_6000_2000 0.016324
rd_2_1_0_4_1 nd_2_0_6000_2000 nd_2_0_6000_3333 0.016324
rd_2_1_0_4_2 nd_2_0_6000_3333 nd_2_0_6000_4666 0.016324
rd_2_1_0_4_3 nd_2_0_6000_4666 nd_2_0_6000_6000 0.016324
rd_2_1_0_4_4 nd_2_0_6000_6000 nd_2_0_6000_7333 0.016324
rd_2_1_0_4_5 nd_2_0_6000_7333 nd_2_0_6000_8666 0.016324
rd_2_1_0_5_0 nd_2_0_7333_666 nd_2_0_7333_2000 0.016324
rd_2_1_0_5_1 nd_2_0_7333_2000 nd_2_0_7333_3333 0.016324
rd_2_1_0_5_2 nd_2_0_7333_3333 nd_2_0_7333_4666 0.016324
rd_2_1_0_5_3 nd_2_0_7333_4666 nd_2_0_7333_6000 0.016324
rd_2_1_0_5_4 nd_2_0_7333_6000 nd_2_0_7333_7333 0.016324
rd_2_1_0_5_5 nd_2_0_7333_7333 nd_2_0_7333_8666 0.016324
rd_2_1_0_6_0 nd_2_0_8666_666 nd_2_0_8666_2000 0.016324
rd_2_1_0_6_1 nd_2_0_8666_2000 nd_2_0_8666_3333 0.016324
rd_2_1_0_6_2 nd_2_0_8666_3333 nd_2_0_8666_4666 0.016324
rd_2_1_0_6_3 nd_2_0_8666_4666 nd_2_0_8666_6000 0.016324
rd_2_1_0_6_4 nd_2_0_8666_6000 nd_2_0_8666_7333 0.016324
rd_2_1_0_6_5 nd_2_0_8666_7333 nd_2_0_8666_8666 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_666_666 nd_2_0_666_666 0.005
rvd_1_0_0_1 nd_1_0_2000_666 nd_2_0_2000_666 0.005
rvd_1_0_0_2 nd_1_0_3333_666 nd_2_0_3333_666 0.005
rvd_1_0_0_3 nd_1_0_4666_666 nd_2_0_4666_666 0.005
rvd_1_0_0_4 nd_1_0_6000_666 nd_2_0_6000_666 0.005
rvd_1_0_0_5 nd_1_0_7333_666 nd_2_0_7333_666 0.005
rvd_1_0_0_6 nd_1_0_8666_666 nd_2_0_8666_666 0.005
rvd_1_0_1_0 nd_1_0_666_2000 nd_2_0_666_2000 0.005
rvd_1_0_1_1 nd_1_0_2000_2000 nd_2_0_2000_2000 0.005
rvd_1_0_1_2 nd_1_0_3333_2000 nd_2_0_3333_2000 0.005
rvd_1_0_1_3 nd_1_0_4666_2000 nd_2_0_4666_2000 0.005
rvd_1_0_1_4 nd_1_0_6000_2000 nd_2_0_6000_2000 0.005
rvd_1_0_1_5 nd_1_0_7333_2000 nd_2_0_7333_2000 0.005
rvd_1_0_1_6 nd_1_0_8666_2000 nd_2_0_8666_2000 0.005
rvd_1_0_2_0 nd_1_0_666_3333 nd_2_0_666_3333 0.005
rvd_1_0_2_1 nd_1_0_2000_3333 nd_2_0_2000_3333 0.005
rvd_1_0_2_2 nd_1_0_3333_3333 nd_2_0_3333_3333 0.005
rvd_1_0_2_3 nd_1_0_4666_3333 nd_2_0_4666_3333 0.005
rvd_1_0_2_4 nd_1_0_6000_3333 nd_2_0_6000_3333 0.005
rvd_1_0_2_5 nd_1_0_7333_3333 nd_2_0_7333_3333 0.005
rvd_1_0_2_6 nd_1_0_8666_3333 nd_2_0_8666_3333 0.005
rvd_1_0_3_0 nd_1_0_666_4666 nd_2_0_666_4666 0.005
rvd_1_0_3_1 nd_1_0_2000_4666 nd_2_0_2000_4666 0.005
rvd_1_0_3_2 nd_1_0_3333_4666 nd_2_0_3333_4666 0.005
rvd_1_0_3_3 nd_1_0_4666_4666 nd_2_0_4666_4666 0.005
rvd_1_0_3_4 nd_1_0_6000_4666 nd_2_0_6000_4666 0.005
rvd_1_0_3_5 nd_1_0_7333_4666 nd_2_0_7333_4666 0.005
rvd_1_0_3_6 nd_1_0_8666_4666 nd_2_0_8666_4666 0.005
rvd_1_0_4_0 nd_1_0_666_6000 nd_2_0_666_6000 0.005
rvd_1_0_4_1 nd_1_0_2000_6000 nd_2_0_2000_6000 0.005
rvd_1_0_4_2 nd_1_0_3333_6000 nd_2_0_3333_6000 0.005
rvd_1_0_4_3 nd_1_0_4666_6000 nd_2_0_4666_6000 0.005
rvd_1_0_4_4 nd_1_0_6000_6000 nd_2_0_6000_6000 0.005
rvd_1_0_4_5 nd_1_0_7333_6000 nd_2_0_7333_6000 0.005
rvd_1_0_4_6 nd_1_0_8666_6000 nd_2_0_8666_6000 0.005
rvd_1_0_5_0 nd_1_0_666_7333 nd_2_0_666_7333 0.005
rvd_1_0_5_1 nd_1_0_2000_7333 nd_2_0_2000_7333 0.005
rvd_1_0_5_2 nd_1_0_3333_7333 nd_2_0_3333_7333 0.005
rvd_1_0_5_3 nd_1_0_4666_7333 nd_2_0_4666_7333 0.005
rvd_1_0_5_4 nd_1_0_6000_7333 nd_2_0_6000_7333 0.005
rvd_1_0_5_5 nd_1_0_7333_7333 nd_2_0_7333_7333 0.005
rvd_1_0_5_6 nd_1_0_8666_7333 nd_2_0_8666_7333 0.005
rvd_1_0_6_0 nd_1_0_666_8666 nd_2_0_666_8666 0.005
rvd_1_0_6_1 nd_1_0_2000_8666 nd_2_0_2000_8666 0.005
rvd_1_0_6_2 nd_1_0_3333_8666 nd_2_0_3333_8666 0.005
rvd_1_0_6_3 nd_1_0_4666_8666 nd_2_0_4666_8666 0.005
rvd_1_0_6_4 nd_1_0_6000_8666 nd_2_0_6000_8666 0.005
rvd_1_0_6_5 nd_1_0_7333_8666 nd_2_0_7333_8666 0.005
rvd_1_0_6_6 nd_1_0_8666_8666 nd_2_0_8666_8666 0.005
*-- via layer 1-2: net: 0 VSS net
id_0_0_0_0 nd_1_0_666_666 0 pwl(0 0.0 6.750e-01ns 0.0  7.250e-01ns 1.3e-02  7.972e-01ns 1.3e-02  8.472e-01ns 0.0)
rdesr_0_0_0_0 nd_1_0_666_666 nd_1_0_666_666_ci 55.8832
cd_0_0_0_0 nd_1_0_666_666_ci 0 2.469e-12
id_0_0_0_1 nd_1_0_2000_666 0 pwl(0 0.0 1.785e-01ns 0.0  2.285e-01ns 5.5e-02  4.288e-01ns 5.5e-02  4.788e-01ns 0.0)
rdesr_0_0_0_1 nd_1_0_2000_666 nd_1_0_2000_666_ci 6.56346
cd_0_0_0_1 nd_1_0_2000_666_ci 0 2.81786e-11
id_0_0_0_2 nd_1_0_3333_666 0 pwl(0 0.0 5.171e-01ns 0.0  5.671e-01ns 1.6e-02  8.151e-01ns 1.6e-02  8.651e-01ns 0.0)
rdesr_0_0_0_2 nd_1_0_3333_666 nd_1_0_3333_666_ci 19.0706
cd_0_0_0_2 nd_1_0_3333_666_ci 0 8.39145e-12
id_0_0_0_3 nd_1_0_4666_666 0 pwl(0 0.0 5.337e-01ns 0.0  5.837e-01ns 1.5e-01  6.464e-01ns 1.5e-01  6.964e-01ns 0.0)
rdesr_0_0_0_3 nd_1_0_4666_666 nd_1_0_4666_666_ci 5.31884
cd_0_0_0_3 nd_1_0_4666_666_ci 0 3.07467e-11
id_0_0_0_4 nd_1_0_6000_666 0 pwl(0 0.0 9.896e-02ns 0.0  1.490e-01ns 1.8e-02  7.009e-01ns 1.8e-02  7.509e-01ns 0.0)
rdesr_0_0_0_4 nd_1_0_6000_666 nd_1_0_6000_666_ci 8.2962
cd_0_0_0_4 nd_1_0_6000_666_ci 0 8.11965e-12
id_0_0_0_5 nd_1_0_7333_666 0 pwl(0 0.0 5.664e-01ns 0.0  6.164e-01ns 4.4e-02  8.497e-01ns 4.4e-02  8.997e-01ns 0.0)
rdesr_0_0_0_5 nd_1_0_7333_666 nd_1_0_7333_666_ci 7.24546
cd_0_0_0_5 nd_1_0_7333_666_ci 0 2.35875e-11
id_0_0_0_6 nd_1_0_8666_666 0 pwl(0 0.0 1.309e-01ns 0.0  1.809e-01ns 4.9e-03  8.445e-01ns 4.9e-03  8.945e-01ns 0.0)
rdesr_0_0_0_6 nd_1_0_8666_666 nd_1_0_8666_666_ci 25.9606
cd_0_0_0_6 nd_1_0_8666_666_ci 0 9.33881e-14
id_0_0_0_7 nd_1_0_666_2000 0 pwl(0 0.0 5.981e-01ns 0.0  6.481e-01ns 4.9e-02  9.141e-01ns 4.9e-02  9.641e-01ns 0.0)
rdesr_0_0_0_7 nd_1_0_666_2000 nd_1_0_666_2000_ci 5.77967
cd_0_0_0_7 nd_1_0_666_2000_ci 0 1.1384e-12
id_0_0_0_8 nd_1_0_2000_2000 0 pwl(0 0.0 2.877e-01ns 0.0  3.377e-01ns 2.3e-02  5.796e-01ns 2.3e-02  6.296e-01ns 0.0)
rdesr_0_0_0_8 nd_1_0_2000_2000 nd_1_0_2000_2000_ci 13.2813
cd_0_0_0_8 nd_1_0_2000_2000_ci 0 8.27424e-12
id_0_0_0_9 nd_1_0_3333_2000 0 pwl(0 0.0 7.505e-01ns 0.0  8.005e-01ns 6.0e-02  9.366e-01ns 6.0e-02  9.866e-01ns 0.0)
rdesr_0_0_0_9 nd_1_0_3333_2000 nd_1_0_3333_2000_ci 8.03722
cd_0_0_0_9 nd_1_0_3333_2000_ci 0 1.59867e-12
id_0_0_0_10 nd_1_0_4666_2000 0 pwl(0 0.0 3.241e-01ns 0.0  3.741e-01ns 8.0e-03  6.206e-01ns 8.0e-03  6.706e-01ns 0.0)
rdesr_0_0_0_10 nd_1_0_4666_2000 nd_1_0_4666_2000_ci 37.8481
cd_0_0_0_10 nd_1_0_4666_2000_ci 0 4.38897e-13
id_0_0_0_11 nd_1_0_6000_2000 0 pwl(0 0.0 7.876e-01ns 0.0  8.376e-01ns 3.4e-02  9.037e-01ns 3.4e-02  9.537e-01ns 0.0)
rdesr_0_0_0_11 nd_1_0_6000_2000 nd_1_0_6000_2000_ci 22.939
cd_0_0_0_11 nd_1_0_6000_2000_ci 0 6.47465e-12
id_0_0_0_12 nd_1_0_7333_2000 0 pwl(0 0.0 2.800e-02ns 0.0  7.800e-02ns 1.1e-01  1.725e-01ns 1.1e-01  2.225e-01ns 0.0)
rdesr_0_0_0_12 nd_1_0_7333_2000 nd_1_0_7333_2000_ci 5.64046
cd_0_0_0_12 nd_1_0_7333_2000_ci 0 9.0679e-12
id_0_0_0_13 nd_1_0_8666_2000 0 pwl(0 0.0 4.619e-02ns 0.0  9.619e-02ns 1.1e-01  2.036e-01ns 1.1e-01  2.536e-01ns 0.0)
rdesr_0_0_0_13 nd_1_0_8666_2000 nd_1_0_8666_2000_ci 5.12712
cd_0_0_0_13 nd_1_0_8666_2000_ci 0 3.03671e-11
id_0_0_0_14 nd_1_0_666_3333 0 pwl(0 0.0 5.098e-01ns 0.0  5.598e-01ns 3.8e-03  8.106e-01ns 3.8e-03  8.606e-01ns 0.0)
rdesr_0_0_0_14 nd_1_0_666_3333 nd_1_0_666_3333_ci 78.2128
cd_0_0_0_14 nd_1_0_666_3333_ci 0 2.02202e-12
id_0_0_0_15 nd_1_0_2000_3333 0 pwl(0 0.0 5.280e-01ns 0.0  5.780e-01ns 1.2e-01  6.376e-01ns 1.2e-01  6.876e-01ns 0.0)
rdesr_0_0_0_15 nd_1_0_2000_3333 nd_1_0_2000_3333_ci 6.84032
cd_0_0_0_15 nd_1_0_2000_3333_ci 0 2.78778e-11
id_0_0_0_16 nd_1_0_3333_3333 0 pwl(0 0.0 2.192e-01ns 0.0  2.692e-01ns 5.5e-02  4.855e-01ns 5.5e-02  5.355e-01ns 0.0)
rdesr_0_0_0_16 nd_1_0_3333_3333 nd_1_0_3333_3333_ci 6.13929
cd_0_0_0_16 nd_1_0_3333_3333_ci 0 1.54848e-11
id_0_0_0_17 nd_1_0_4666_3333 0 pwl(0 0.0 2.374e-01ns 0.0  2.874e-01ns 6.0e-02  5.078e-01ns 6.0e-02  5.578e-01ns 0.0)
rdesr_0_0_0_17 nd_1_0_4666_3333 nd_1_0_4666_3333_ci 5.50888
cd_0_0_0_17 nd_1_0_4666_3333_ci 0 3.57469e-11
id_0_0_0_18 nd_1_0_6000_3333 0 pwl(0 0.0 2.485e-01ns 0.0  2.985e-01ns 4.8e-02  6.220e-01ns 4.8e-02  6.720e-01ns 0.0)
rdesr_0_0_0_18 nd_1_0_6000_3333 nd_1_0_6000_3333_ci 5.02217
cd_0_0_0_18 nd_1_0_6000_3333_ci 0 2.04353e-11
id_0_0_0_19 nd_1_0_7333_3333 0 pwl(0 0.0 7.226e-01ns 0.0  7.726e-01ns 5.8e-02  9.284e-01ns 5.8e-02  9.784e-01ns 0.0)
rdesr_0_0_0_19 nd_1_0_7333_3333 nd_1_0_7333_3333_ci 7.50244
cd_0_0_0_19 nd_1_0_7333_3333_ci 0 1.39828e-11
id_0_0_0_20 nd_1_0_8666_3333 0 pwl(0 0.0 7.377e-01ns 0.0  7.877e-01ns 9.9e-02  8.746e-01ns 9.9e-02  9.246e-01ns 0.0)
rdesr_0_0_0_20 nd_1_0_8666_3333 nd_1_0_8666_3333_ci 6.64043
cd_0_0_0_20 nd_1_0_8666_3333_ci 0 2.08167e-11
id_0_0_0_21 nd_1_0_666_4666 0 pwl(0 0.0 8.776e-01ns 0.0  9.276e-01ns 2.4e-01  9.400e-01ns 2.4e-01  9.900e-01ns 0.0)
rdesr_0_0_0_21 nd_1_0_666_4666 nd_1_0_666_4666_ci 5.92771
cd_0_0_0_21 nd_1_0_666_4666_ci 0 6.94908e-12
id_0_0_0_22 nd_1_0_2000_4666 0 pwl(0 0.0 4.476e-01ns 0.0  4.976e-01ns 2.0e-02  7.559e-01ns 2.0e-02  8.059e-01ns 0.0)
rdesr_0_0_0_22 nd_1_0_2000_4666 nd_1_0_2000_4666_ci 14.5867
cd_0_0_0_22 nd_1_0_2000_4666_ci 0 9.95294e-12
id_0_0_0_23 nd_1_0_3333_4666 0 pwl(0 0.0 1.443e-02ns 0.0  6.443e-02ns 6.0e-02  1.431e-01ns 6.0e-02  1.931e-01ns 0.0)
rdesr_0_0_0_23 nd_1_0_3333_4666 nd_1_0_3333_4666_ci 11.7085
cd_0_0_0_23 nd_1_0_3333_4666_ci 0 4.0715e-12
id_0_0_0_24 nd_1_0_4666_4666 0 pwl(0 0.0 2.863e-02ns 0.0  7.863e-02ns 8.6e-02  1.712e-01ns 8.6e-02  2.212e-01ns 0.0)
rdesr_0_0_0_24 nd_1_0_4666_4666 nd_1_0_4666_4666_ci 7.30538
cd_0_0_0_24 nd_1_0_4666_4666_ci 0 7.07448e-12
id_0_0_0_25 nd_1_0_6000_4666 0 pwl(0 0.0 6.244e-01ns 0.0  6.744e-01ns 5.3e-02  8.855e-01ns 5.3e-02  9.355e-01ns 0.0)
rdesr_0_0_0_25 nd_1_0_6000_4666 nd_1_0_6000_4666_ci 6.45809
cd_0_0_0_25 nd_1_0_6000_4666_ci 0 1.2924e-11
id_0_0_0_26 nd_1_0_7333_4666 0 pwl(0 0.0 1.875e-01ns 0.0  2.375e-01ns 2.6e-02  7.935e-01ns 2.6e-02  8.435e-01ns 0.0)
rdesr_0_0_0_26 nd_1_0_7333_4666 nd_1_0_7333_4666_ci 5.77091
cd_0_0_0_26 nd_1_0_7333_4666_ci 0 3.22314e-11
id_0_0_0_27 nd_1_0_8666_4666 0 pwl(0 0.0 3.322e-01ns 0.0  3.822e-01ns 1.1e-02  9.193e-01ns 1.1e-02  9.693e-01ns 0.0)
rdesr_0_0_0_27 nd_1_0_8666_4666 nd_1_0_8666_4666_ci 13.5933
cd_0_0_0_27 nd_1_0_8666_4666_ci 0 1.31624e-12
id_0_0_0_28 nd_1_0_666_6000 0 pwl(0 0.0 7.918e-01ns 0.0  8.418e-01ns 1.9e-01  8.919e-01ns 1.9e-01  9.419e-01ns 0.0)
rdesr_0_0_0_28 nd_1_0_666_6000 nd_1_0_666_6000_ci 4.81234
cd_0_0_0_28 nd_1_0_666_6000_ci 0 1.03738e-11
id_0_0_0_29 nd_1_0_2000_6000 0 pwl(0 0.0 3.891e-02ns 0.0  8.891e-02ns 2.2e-02  6.191e-01ns 2.2e-02  6.691e-01ns 0.0)
rdesr_0_0_0_29 nd_1_0_2000_6000 nd_1_0_2000_6000_ci 7.09519
cd_0_0_0_29 nd_1_0_2000_6000_ci 0 2.17789e-11
id_0_0_0_30 nd_1_0_3333_6000 0 pwl(0 0.0 5.024e-01ns 0.0  5.524e-01ns 3.6e-02  6.067e-01ns 3.6e-02  6.567e-01ns 0.0)
rdesr_0_0_0_30 nd_1_0_3333_6000 nd_1_0_3333_6000_ci 23.9533
cd_0_0_0_30 nd_1_0_3333_6000_ci 0 2.36784e-12
id_0_0_0_31 nd_1_0_4666_6000 0 pwl(0 0.0 6.782e-02ns 0.0  1.178e-01ns 2.7e-02  6.606e-01ns 2.7e-02  7.106e-01ns 0.0)
rdesr_0_0_0_31 nd_1_0_4666_6000 nd_1_0_4666_6000_ci 5.68518
cd_0_0_0_31 nd_1_0_4666_6000_ci 0 3.33368e-11
id_0_0_0_32 nd_1_0_6000_6000 0 pwl(0 0.0 2.098e-01ns 0.0  2.598e-01ns 2.8e-02  8.216e-01ns 2.8e-02  8.716e-01ns 0.0)
rdesr_0_0_0_32 nd_1_0_6000_6000 nd_1_0_6000_6000_ci 5.18261
cd_0_0_0_32 nd_1_0_6000_6000_ci 0 1.77748e-11
id_0_0_0_33 nd_1_0_7333_6000 0 pwl(0 0.0 2.307e-01ns 0.0  2.807e-01ns 3.2e-02  5.024e-01ns 3.2e-02  5.524e-01ns 0.0)
rdesr_0_0_0_33 nd_1_0_7333_6000 nd_1_0_7333_6000_ci 10.51
cd_0_0_0_33 nd_1_0_7333_6000_ci 0 9.12037e-12
id_0_0_0_34 nd_1_0_8666_6000 0 pwl(0 0.0 2.428e-01ns 0.0  2.928e-01ns 9.3e-03  5.185e-01ns 9.3e-03  5.685e-01ns 0.0)
rdesr_0_0_0_34 nd_1_0_8666_6000 nd_1_0_8666_6000_ci 35.1424
cd_0_0_0_34 nd_1_0_8666_6000_ci 0 2.82148e-12
id_0_0_0_35 nd_1_0_666_7333 0 pwl(0 0.0 8.406e-01ns 0.0  8.906e-01ns 2.9e-01  9.406e-01ns 0.0)
rdesr_0_0_0_35 nd_1_0_666_7333 nd_1_0_666_7333_ci 6.12703
cd_0_0_0_35 nd_1_0_666_7333_ci 0 5.00013e-12
id_0_0_0_36 nd_1_0_2000_7333 0 pwl(0 0.0 8.527e-01ns 0.0  9.027e-01ns 9.9e-02  9.104e-01ns 9.9e-02  9.604e-01ns 0.0)
rdesr_0_0_0_36 nd_1_0_2000_7333 nd_1_0_2000_7333_ci 15.6929
cd_0_0_0_36 nd_1_0_2000_7333_ci 0 2.20422e-12
id_0_0_0_37 nd_1_0_3333_7333 0 pwl(0 0.0 4.170e-01ns 0.0  4.670e-01ns 1.9e-02  7.956e-01ns 1.9e-02  8.456e-01ns 0.0)
rdesr_0_0_0_37 nd_1_0_3333_7333 nd_1_0_3333_7333_ci 12.3895
cd_0_0_0_37 nd_1_0_3333_7333_ci 0 5.54067e-12
id_0_0_0_38 nd_1_0_4666_7333 0 pwl(0 0.0 5.709e-01ns 0.0  6.209e-01ns 6.9e-02  8.522e-01ns 6.9e-02  9.022e-01ns 0.0)
rdesr_0_0_0_38 nd_1_0_4666_7333 nd_1_0_4666_7333_ci 4.63893
cd_0_0_0_38 nd_1_0_4666_7333_ci 0 2.15907e-11
id_0_0_0_39 nd_1_0_6000_7333 0 pwl(0 0.0 2.636e-01ns 0.0  3.136e-01ns 5.0e-03  8.638e-01ns 5.0e-03  9.138e-01ns 0.0)
rdesr_0_0_0_39 nd_1_0_6000_7333 nd_1_0_6000_7333_ci 30.2574
cd_0_0_0_39 nd_1_0_6000_7333_ci 0 1.22409e-13
id_0_0_0_40 nd_1_0_7333_7333 0 pwl(0 0.0 7.262e-01ns 0.0  7.762e-01ns 1.3e-01  8.434e-01ns 1.3e-01  8.934e-01ns 0.0)
rdesr_0_0_0_40 nd_1_0_7333_7333 nd_1_0_7333_7333_ci 6.02631
cd_0_0_0_40 nd_1_0_7333_7333_ci 0 1.19692e-12
id_0_0_0_41 nd_1_0_8666_7333 0 pwl(0 0.0 7.445e-01ns 0.0  7.945e-01ns 5.5e-02  8.568e-01ns 5.5e-02  9.068e-01ns 0.0)
rdesr_0_0_0_41 nd_1_0_8666_7333 nd_1_0_8666_7333_ci 14.6365
cd_0_0_0_41 nd_1_0_8666_7333_ci 0 2.62407e-12
id_0_0_0_42 nd_1_0_666_8666 0 pwl(0 0.0 4.393e-01ns 0.0  4.893e-01ns 2.5e-02  7.463e-01ns 2.5e-02  7.963e-01ns 0.0)
rdesr_0_0_0_42 nd_1_0_666_8666 nd_1_0_666_8666_ci 11.7417
cd_0_0_0_42 nd_1_0_666_8666_ci 0 3.58846e-12
id_0_0_0_43 nd_1_0_2000_8666 0 pwl(0 0.0 4.507e-01ns 0.0  5.007e-01ns 1.1e-01  5.381e-01ns 1.1e-01  5.881e-01ns 0.0)
rdesr_0_0_0_43 nd_1_0_2000_8666 nd_1_0_2000_8666_ci 9.69582
cd_0_0_0_43 nd_1_0_2000_8666_ci 0 4.72996e-12
id_0_0_0_44 nd_1_0_3333_8666 0 pwl(0 0.0 1.432e-01ns 0.0  1.932e-01ns 6.0e-02  3.725e-01ns 6.0e-02  4.225e-01ns 0.0)
rdesr_0_0_0_44 nd_1_0_3333_8666 nd_1_0_3333_8666_ci 6.53043
cd_0_0_0_44 nd_1_0_3333_8666_ci 0 2.70837e-11
id_0_0_0_45 nd_1_0_4666_8666 0 pwl(0 0.0 6.140e-01ns 0.0  6.640e-01ns 5.8e-02  8.796e-01ns 5.8e-02  9.296e-01ns 0.0)
rdesr_0_0_0_45 nd_1_0_4666_8666 nd_1_0_4666_8666_ci 5.87435
cd_0_0_0_45 nd_1_0_4666_8666_ci 0 1.38842e-11
id_0_0_0_46 nd_1_0_6000_8666 0 pwl(0 0.0 7.565e-01ns 0.0  8.065e-01ns 9.4e-02  9.374e-01ns 9.4e-02  9.874e-01ns 0.0)
rdesr_0_0_0_46 nd_1_0_6000_8666 nd_1_0_6000_8666_ci 5.31305
cd_0_0_0_46 nd_1_0_6000_8666_ci 0 2.33861e-12
id_0_0_0_47 nd_1_0_7333_8666 0 pwl(0 0.0 7.669e-01ns 0.0  8.169e-01ns 1.1e-01  9.406e-01ns 1.1e-01  9.906e-01ns 0.0)
rdesr_0_0_0_47 nd_1_0_7333_8666 nd_1_0_7333_8666_ci 4.86111
cd_0_0_0_47 nd_1_0_7333_8666_ci 0 3.2266e-12
id_0_0_0_48 nd_1_0_8666_8666 0 pwl(0 0.0 4.630e-01ns 0.0  5.130e-01ns 6.5e-02  7.704e-01ns 6.5e-02  8.204e-01ns 0.0)
rdesr_0_0_0_48 nd_1_0_8666_8666 nd_1_0_8666_8666_ci 4.47841
cd_0_0_0_48 nd_1_0_8666_8666_ci 0 3.30381e-11

*-- intentional decap
cd_add_cap0 nd_1_0_2000_2000 nd0 'dcap_int_val134'
cd_add_cap1 nd_1_0_4666_2000 nd1 'dcap_int_val135'
cd_add_cap2 nd_1_0_7333_2000 nd2 'dcap_int_val136'
cd_add_cap3 nd_1_0_2000_4666 nd3 'dcap_int_val137'
cd_add_cap4 nd_1_0_4666_4666 nd4 'dcap_int_val138'
cd_add_cap5 nd_1_0_7333_4666 nd5 'dcap_int_val139'
cd_add_cap6 nd_1_0_2000_7333 nd6 'dcap_int_val140'
cd_add_cap7 nd_1_0_4666_7333 nd7 'dcap_int_val141'
cd_add_cap8 nd_1_0_7333_7333 nd8 'dcap_int_val142'
rd_add0 nd0 0 'esr13'
rd_add1 nd1 0 'esr14'
rd_add2 nd2 0 'esr15'
rd_add3 nd3 0 'esr16'
rd_add4 nd4 0 'esr17'
rd_add5 nd5 0 'esr18'
rd_add6 nd6 0 'esr19'
rd_add7 nd7 0 'esr20'
rd_add8 nd8 0 'esr21'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_4_1 nd_pad_port_4_1 nd_pad_4_1 ubump_subckt
xd_pad_4_3 nd_pad_port_4_3 nd_pad_4_3 ubump_subckt
xd_pad_4_5 nd_pad_port_4_5 nd_pad_4_5 ubump_subckt
xd_pad_5_0 nd_pad_port_5_0 nd_pad_5_0 ubump_subckt
xd_pad_5_2 nd_pad_port_5_2 nd_pad_5_2 ubump_subckt
xd_pad_5_4 nd_pad_port_5_4 nd_pad_5_4 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_2000_3333  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_2000_6000  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_2000_8666  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3333_2000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3333_4666  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3333_7333  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_4666_3333  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_4666_6000  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_4666_8666  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_6000_2000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_6000_4666  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_6000_7333  0.001
rd_pad2via_4_1 nd_pad_4_1 nd_2_0_7333_3333  0.001
rd_pad2via_4_3 nd_pad_4_3 nd_2_0_7333_6000  0.001
rd_pad2via_4_5 nd_pad_4_5 nd_2_0_7333_8666  0.001
rd_pad2via_5_0 nd_pad_5_0 nd_2_0_8666_2000  0.001
rd_pad2via_5_2 nd_pad_5_2 nd_2_0_8666_4666  0.001
rd_pad2via_5_4 nd_pad_5_4 nd_2_0_8666_7333  0.001

.ends chiplet3
